US05849888
34.9 Grams of isobutylamine is mixed with 50 g of 2,2'-azobis (2-methyl propionate), and 10 g of 28% sodium methoxide solution in methanol is dropwise added thereto with stirring, followed by conducting a reaction at room temperature with stirring for 6 hours and keeping standing overnight. 100 Milliliter of water is added to the reaction solution and cooled to 10° C. to precipitate crystals. The crystals are recovered by filtration and dried to give 56.4 g (yield 83%) of 2,2'-azobis [N-(2 -methylpropyl)-2-methyl propionamide] as pale yellow crystal. The solubility is shown in Table 1.

reactant | isobutylamine | C(C(C)C)N | C4H11N
reactant | 2,2'-azobis (2-methyl propionate) | 50 g | N(=NC(C(=O)[O-])(C)C)C(C(=O)[O-])(C)C
reactant | sodium methoxide | 10 g | C[O-].[Na+]
reactant | water | O | H2O
solvent | methanol | CO | CH4O
product | 2,2'-azobis [N-(2 -methylpropyl)-2-methyl propionamide] | 56.4 g, yield 83% | N(=NC(C(=O)NCC(C)C)(C)C)C(C(=O)NCC(C)C)(C)C | C16H32N4O2
